US08076486B2
3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid 3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester
(Trimethylsilyl)diazomethane (8.1 mL, 2M in THF, 16.2 mmol) was added to a solution of 3-bromo-5-(2-fluoro-phenylamino)-isonicotinic acid (4.2 g, 13.5 mmol) in THF/MeOH (72 mL, 9/1, v/v) and stirred for 2 h at room temperature. The reaction solution was quenched with acetic acid, and then concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 50% EtOAc in hexanes to afford the desired product (4.1 g, 94%) as a yellow solid.

reactant | (Trimethylsilyl)diazomethane | 16.2 mmol, 2M, 8.1 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-bromo-5-(2-fluoro-phenylamino)-isonicotinic acid | 13.5 mmol, 4.2 g | BrC1=C(C(=O)O)C(=CN=C1)NC1=C(C=CC=C1)F | C12H8BrFN2O2
solvent | THF MeOH | C1CCOC1.CO
product | 3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid 3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester | 4.1 g, 94% | COC(C1=C(C=NC=C1NC1=C(C=CC=C1)F)Br)=O.BrC1=C(C(=O)O)C(=CN=C1)NC1=C(C=CC=C1)F | InChI=1S/C13H10BrFN2O2.C12H8BrFN2O2/c1-19-13(18)12-8(14)6-16-7-11(12)17-10-5-3-2-4-9(10)15;13-7-5-15-6-10(11(7)12(17)18)16-9-4-2-1-3-8(9)14/h2-7,17H,1H3;1-6,16H,(H,17,18)
